US04490392
3.08 g of 2-benzyloxyphenylglyoxal hydrate (crude oil) are dissolved in 10 ml of dimethylsulfoxide, and 2.1 g of α-methyl-4-methoxyphenethylamine are added thereto. The mixture is stirred at room temperature for 45 minutes, whereby a solution of α-(α-methyl-4-methoxyphenethylimino)-2-benzyloxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 3.08 g | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | α-methyl-4-methoxyphenethylamine | 2.1 g | CC(CC1=CC=C(C=C1)OC)N | C10H15NO
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | α-(α-methyl-4-methoxyphenethylimino)-2-benzyloxyacetophenone | CC(CC1=CC=C(C=C1)OC)N=C(C(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C25H25NO3
